US08957049B2
A solution of 4-bromoaniline (9.0 g, 52.3 mmol) in PhMe (100 mL) and pyridine (8.5 mL, 110 mmol, 2.0 eq.) was cooled in an ice bath and slowly treated with propionyl chloride (5.5 mL, 63 mmol, 1.2 eq.). After 2 h, the reaction mixture was added to 0.1 M HCl and extracted into EtOAc. Concentration followed by recrystallization of the residue from EtOH/water gave N-propionyl-4-bromoaniline (10.64 g, 89%). [M−H]−=278.1 m/z.

reactant | 4-bromoaniline | 52.3 mmol, 9.0 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | pyridine | 110 mmol, 8.5 mL, 2.0 eq. | N1=CC=CC=C1 | C5H5N
reactant | propionyl chloride | 63 mmol, 5.5 mL, 1.2 eq. | C(CC)(=O)Cl | C3H5ClO
reactant | HCl | 0.1 M | Cl | ClH
solvent | PhMe | 100 mL | C1(=CC=CC=C1)C | C7H8
product | N-propionyl-4-bromoaniline | 10.64 g, 89% | C(CC)(=O)NC1=CC=C(C=C1)Br | C9H10BrNO
